US03957774
Example 10 - Preparation of N-methylpropylurea (morpholinomethyl)propylurea ##EQU26##
1 mol of N-methyl dipropylurea and 1 mol of formol in aqueous 30% solution are mixed. To this solution 1 mol of morpholine is slowly added while cooling. The stirring is maintained one hour after the end of the N-methyl dipropylurea addition. After evaporation to dryness a crystalline product is obtained which melts at 110°C. The yield of the reaction is 98%.

reactant | N-methyl dipropylurea | 1 mol | CNC(=O)N(CCC)CCC | C8H18N2O
reactant | formol | 1 mol | C=O | CH2O
reactant | morpholine | 1 mol | N1CCOCC1 | C4H9NO
product | N-methylpropylurea (morpholinomethyl)propylurea | O1CCN(CC1)CN(C(=O)N)CCC.CN(C(=O)N)CCC | InChI=1S/C9H19N3O2.C5H12N2O/c1-2-3-12(9(10)13)8-11-4-6-14-7-5-11;1-3-4-7(2)5(6)8/h2-8H2,1H3,(H2,10,13);3-4H2,1-2H3,(H2,6,8)
